US05767285
To 1.16 g of 5-acetylsalicylic acid, methyl ester in 10 mL of N,N-dimethylformamide is added 1 g of chloroacetic acid, methyl ester and 1.2 g of potassium carbonate. After stirring this mixture at ambient temperature for 16 hours the reaction is filtered, diluted with ethyl acetate, and washed once with water and twice with brine. The ethyl acetate is dried with magnesium sulfate, filtered, and evaporated to give 5-acetyl-2-(carboxymethoxy)benzoic acid as a crude product. Crystallization from methanol at -15° C. gives 0.6 g of white crystals. 1H-NMR (CDCl3): 8.5 ppm (1H, d), 8.1 ppm (1H, dd), 6.9 ppm (1H, d), 4.8 ppm (2H, s), 4.0 ppm (3H, s), 3.8 ppm (3H, s), 2.6 ppm (3H, s).

reactant | 5-acetylsalicylic acid, methyl ester | 1.16 g | C(C)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C10H10O4
reactant | chloroacetic acid, methyl ester | 1 g | ClCC(=O)OC | C3H5ClO2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-acetyl-2-(carboxymethoxy)benzoic acid | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)OCC(=O)O | C11H10O6
